US05629433
When Baccatin III was used as the starting material the reaction using water as the solvent also proceeds to the 10-DAB product; however, with a prolonged reaction time the yield is low and the 7-epi-10-DAB was formed in considerable amounts.

reactant | Baccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
solvent | water | O | H2O
product | 7-epi-10-DAB | CC1=C2[C@H](C(=O)[C@@]3([C@@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)O)C)O | C29H36O10
